US07365197B2
To a stirred solution of ethylmagnesium bromide (3.0 mL of a 3M solution in diethyl ether, 9.0 mmol) in anhydrous tetrahydrofuran (10 mL) at 0° C. under nitrogen is added diisopropylamine (2.5 mL, 17.8 mmol). The mixture is stirred at 0° C. for 1 hour and acetonitrile (0.25 mL, 4.8 mmol) and a solution of 4-benzyloxy-3-methoxy-7-phenylsulfanylbicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile (0.83 g, 2.2 mmol) in anhydrous tetrahydrofuran (3 mL) are added successively, and the resulting mixture is stirred for an additional hour. The reaction is quenched with aqueous ammonium chloride and the product is extracted with ethyl acetate. The extract is washed with brine, dried over anhydrous sodium sulfate and evaporated to yield a solid. The crude product is purified by silica gel chromatography, utilizing a 9:1 to 4:1 gradient of hexane/ethyl acetate to yield 0.527 g of 3-amino-3-(4-benzyloxy-3-methoxy-7-phenylsulfanylbicyclo[4.2.0]octa-1,3,5-trien-7-yl)acrylonitrile as a white solid, mp 122-125° C.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | diisopropylamine | 17.8 mmol, 2.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | acetonitrile | 4.8 mmol, 0.25 mL | C(C)#N | C2H3N
reactant | 4-benzyloxy-3-methoxy-7-phenylsulfanylbicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile | 2.2 mmol, 0.83 g | C(C1=CC=CC=C1)OC1=C(C=C2CC(C2=C1)(C#N)SC1=CC=CC=C1)OC | C23H19NO2S
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-amino-3-(4-benzyloxy-3-methoxy-7-phenylsulfanylbicyclo[4.2.0]octa-1,3,5-trien-7-yl)acrylonitrile | 0.527 g | NC(=CC#N)C1(C2=CC(=C(C=C2C1)OC)OCC1=CC=CC=C1)SC1=CC=CC=C1 | C25H22N2O2S
